### PR TITLE
port to Coq 8.16, add CI job for 8.16

### PR DESCRIPTION
**Pull request by palmskog**
Minimal changes to support both Coq 8.15 and 8.16. We start to test continuously with both versions, then we can drop 8.15 after a while.

### CODE REVIEW

File: theories/VLSM/Core/ELMO/ELMO.v [hunk 1]
```diff
@@ -1437,8 +1437,9 @@ Lemma ELMO_initial_state_not_heavy :
 Proof.
   intros s Hs.
   unfold ELMO_not_heavy, not_heavy.
-  replace (equivocation_fault s) with 0%R; [by apply rt_positive |].
-  by symmetry; apply sum_weights_empty, ELMO_initial_state_equivocating_validators.
+  replace (equivocation_fault s) with 0%R.
+  - by apply (rt_positive (H6 := H6)).
```
Comment (wkolowski) [inline theories/VLSM/Core/ELMO/ELMO.v:1441]: I know you don't like `eapply`, but maybe it'd be better here?

File: theories/VLSM/Core/ReachableThreshold.v [hunk 2]
```diff
@@ -98,10 +98,13 @@ Proof.
...
-        apply elements_proper.
-        intro x.
-        by rewrite elem_of_difference, !elem_of_list_to_set, set_remove_iff, elem_of_singleton.
+        etransitivity.
+        -- symmetry.
+           by apply (elements_list_to_set (H6 := H6)), set_remove_nodup.
+        -- apply elements_proper.
+           intro x.
+           rewrite elem_of_difference, !elem_of_list_to_set.
+           by rewrite set_remove_iff, elem_of_singleton.
```
Comment (wkolowski) [inline theories/VLSM/Core/ReachableThreshold.v:107]: Isn't there a way to save the level of nesting here?

**Review by wkolowski — APPROVED** [review]

File: theories/VLSM/Core/ELMO/ELMO.v (hunk 1 above)
Comment (palmskog) [reply theories/VLSM/Core/ELMO/ELMO.v:1441]: How would `eapply` help here? Just dropping the `(H6 := H6)` is not going to work. The only difference from before is that an `apply` becomes longer and I therefore split into several bullets.

File: theories/VLSM/Core/ReachableThreshold.v (hunk 2 above)
Comment (palmskog) [reply theories/VLSM/Core/ReachableThreshold.v:107]: I don't think the nesting level is a problem in this small proof. Some more bullets can also be helpful to catch failing proofs.
